US09193721B2
Step A: 1-[8-Chloro-5-(3,5-difluorophenyl)-3-methylimidazo[1,5-a]-pyridine-6-yl]propan-1-one
The desired compound was prepared by the procedure of Example 1, step J using 8-chloro-5-(3,5-difluorophenyl)-N-methoxy-N,3-dimethylimidazo[1,5-a]pyridine-6-carboxamide and chloro(ethyl)magnesium as the starting materials in 39% yield. LCMS calculated for C17H14ClF2N2O (M+H)+: m/z=335.1. found: 334.9.

reactant | 8-chloro-5-(3,5-difluorophenyl)-N-methoxy-N,3-dimethylimidazo[1,5-a]pyridine-6-carboxamide | ClC=1C=2N(C(=C(C1)C(=O)N(C)OC)C1=CC(=CC(=C1)F)F)C(=NC2)C | C17H14ClF2N3O2
reactant | chloro(ethyl)magnesium | Cl[Mg]CC
product | 1-[8-Chloro-5-(3,5-difluorophenyl)-3-methylimidazo[1,5-a]-pyridine-6-yl]propan-1-one | 39% yield | ClC=1C=2N(C(=C(C1)C(CC)=O)C1=CC(=CC(=C1)F)F)C(=NC2)C | C17H13ClF2N2O
